US08357689B2
tert-butyl 3-(6-iodo-pyridazin-3-yl)-2-oxo-imidazolidine-1-carboxylate
385 mg tert. butyl [2-(6-iodo-pyridazin-3-ylamino)-ethyl]-carbamate are dissolved in 10 ml dichloromethane, combined with 360 μl N,N-diisopropyl-N-ethyl-amine and 560 μl of a 20% solution of phosgene in toluene are added dropwise thereto. After stirring overnight the mixture is diluted with ethyl acetate and washed with semisaturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is extracted from diethyl ether.

reactant | tert. butyl [2-(6-iodo-pyridazin-3-ylamino)-ethyl]-carbamate | 385 mg | IC1=CC=C(N=N1)NCCNC(OC(C)(C)C)=O | C11H17IN4O2
reactant | N,N-diisopropyl-N-ethyl-amine | 360 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-(6-iodo-pyridazin-3-yl)-2-oxo-imidazolidine-1-carboxylate | IC1=CC=C(N=N1)N1C(N(CC1)C(=O)OC(C)(C)C)=O | C12H15IN4O3
